US06080881
Synthesis of (S)-2-acetylthio-3-phenyl-propionic acid
In a 3 l-jacketed reactor, with mechanical stirring, refrigerator and thermometer, (R)-2-bromo-3-phenyl-propionic acid (385.8 g, 1.68 moles), ethyl acetate (1,143 ml) and ALIQUAT 336° (4.2 g, 0.01 mole) were charged at 15° C. under nitrogen flow. The mixture temperature was brought to 0° C. and potassium thioacetate (222 g, 1.944 moles) was added in two portions. The reaction temperature was kept at 15° C. for 6 hours, then the mixture was twice washed with an aqueous solution of sodium thiosulfate pentahydrate (84.6 g in 820 ml of water over-all), then twice with demineralized water (600 ml total). The phases were separated and the organic one was concentrated under vacuum in a thermostated bath at 35-40° C. The resulting organic solution was cooled and filtered over celite, then added with ethyl acetate (600 ml). On the basis of the HPLC analysis, the yield in solution was equal to 87%.

reactant | (R)-2-bromo-3-phenyl-propionic acid | 1.68 moles, 385.8 g | Br[C@@H](C(=O)O)CC1=CC=CC=C1 | C9H9BrO2
reactant | potassium thioacetate | 1.944 moles, 222 g | C(C)(=S)[O-].[K+]
catalyst | ALIQUAT 336 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | ethyl acetate | 1,143 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2-acetylthio-3-phenyl-propionic acid | C(C)(=O)S[C@H](C(=O)O)CC1=CC=CC=C1 | C11H12O3S
